US07981874B2
Ethyl {3-[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate (125 mg, 0.225 mmol) was taken up in DCM (5 mL)/TFA (2 mL). After 3 hours, saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo to give ethyl {3-[4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate as an orange solid.

reactant | Ethyl {3-[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate | 0.225 mmol, 125 mg | CC(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)C(CCP(OCC)(=O)C)=O | C28H33N2O6PS
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl {3-[4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)C(CCP(OCC)(=O)C)=O | C23H25N2O4PS
